US08314098B2
(Step 1): 5-Chloro-2-{4-(2-methoxy-ethyl-amino)-phenyl}-7-morpholin-4-yl-pyrazolo-[1,5-a]pyrimidine
There was dissolved, in toluene (3 mL), 2-(4-bromo-phenyl)-5-chloro-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine (59.3 mg, 0.151 mM) in an argon gas atmosphere, then there were added, to the resulting solution, a solution of sodium t-butoxide (58.0 mg, 0.604 mM), tris(dibenzylidene acetone) di-palladium (6.9 mg, 0.0076 mM) and tri-t-butyl phosphine (11.0 μL, 0.0453 mM) in toluene (0.556 mL) and 2-methoxy-ethylamine (26.3 μL, 0.302 mM) and the resulting mixture was stirred at 80° C. for 4 hours and a half. This reaction liquid was diluted with a saturated aqueous common salt solution and then extracted with ethyl acetate. The extracts thus obtained were combined, dried over anhydrous sodium sulfate, then the solvent was distilled off and the resulting residue was purified by the silica gel column chromatography (ethyl acetate//hexane=1:4 to 2:3) to thus give the title compound (34.2 mg, yield: 58%).

reactant | 2-(4-bromo-phenyl)-5-chloro-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine | 0.151 mM, 59.3 mg | BrC1=CC=C(C=C1)C1=NN2C(N=C(C=C2N2CCOCC2)Cl)=C1 | C16H14BrClN4O
reactant | sodium t-butoxide | 0.604 mM, 58.0 mg | CC(C)([O-])C.[Na+]
reactant | tri-t-butyl phosphine | 0.0453 mM, 11.0 μL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | 2-methoxy-ethylamine | 0.302 mM, 26.3 μL | COCCN | C3H9NO
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.556 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylidene acetone) di-palladium | 0.0076 mM, 6.9 mg | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | 5-Chloro-2-{4-(2-methoxy-ethyl-amino)-phenyl}-7-morpholin-4-yl-pyrazolo-[1,5-a]pyrimidine | 34.2 mg, yield: 58% | ClC1=NC=2N(C(=C1)N1CCOCC1)N=C(C2)C2=CC=C(C=C2)NCCOC | C19H22ClN5O2
